US06858651B2
In analogy to examples 29.10 and 29.11, trans-Methansulfonic acid 5-(4-methyl amino-cyclohexyl)-pentyl ester.trifluoroacetic acid salt and 4-trifluoromethyl-phenyl sulfonylchloride were reacted) followed by treatment with 2-(2-Hydroxy-ethylamino)-ethanol to give trans-N-(4-{5-[Bis-(2-hydroxy-ethyl)-amino]-pentyl}-cyclohexyl)-N-methyl-4-trifluoromethyl-benzenesulfonamide. MS: 495 (MH+).

reactant | trans-Methansulfonic acid 5-(4-methyl amino-cyclohexyl)-pentyl ester | CN[C@@H]1CC[C@H](CC1)CCCCCOS(=O)(=O)C | C13H27NO3S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-trifluoromethyl-phenyl sulfonylchloride | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
reactant | 2-(2-Hydroxy-ethylamino)-ethanol | OCCNCCO | C4H11NO2
product | trans-N-(4-{5-[Bis-(2-hydroxy-ethyl)-amino]-pentyl}-cyclohexyl)-N-methyl-4-trifluoromethyl-benzenesulfonamide | OCCN(CCCCC[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)CCO | C23H37F3N2O4S
